US08754100B2
Synthesis of 1-(3-bromo-4-methoxyphenyl)cyclopropanol
Ethylmagnesium bromide (3M solution in diethyl ether, 54.4 ml) was added at room temperature to a solution of methyl 3-bromo-4-methoxybenzoate (CAS No. 35450-37-4, 10 g) and titanium (IV) isopropoxide (23.9 ml) in THF (100 ml). The reaction mixture was stirred at room temperature overnight. Ethyl acetate and water were added to the reaction mixture and the precipitate was removed through Celite. The organic layer was separated, washed with brine and dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (7.77 g).

reactant | Ethylmagnesium bromide | 3M, 54.4 ml | C(C)[Mg]Br
reactant | methyl 3-bromo-4-methoxybenzoate | BrC=1C=C(C(=O)OC)C=CC1OC | C9H9BrO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | titanium (IV) isopropoxide | 23.9 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(3-bromo-4-methoxyphenyl)cyclopropanol | 7.77 g | BrC=1C=C(C=CC1OC)C1(CC1)O | C10H11BrO2
